US08236826B2
Production of 4-(2-oxo-3-{4-[5-(4-trifluoromethyl-benzoylamino)pyridin-2-yloxy]phenyl}propionyl)-piperazine-1-carboxylic acid t-butyl ester
To a solution of 4-(2-hydroxy-3-{4-[5-(4-trifluoromethylbenzoylamino)pyridin-2-yloxy]phenyl}propionyl)piperazine-1-carboxylic acid t-butyl ester (0.58 g, 0.94 mmol) in dichloromethane (4 mL) was added a Dess-Martin reagent (0.8 g, 1.89 mmol), and the resulting solution was then stirred under a nitrogen gas flow for 4 hours at room temperature. The reaction solution was concentrated under reduced pressure. To the residue was added 1 N aqueous sodium hydroxide (50 mL), and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel chromatography (dichloromethane:methanol=50:1), to thereby yield 0.31 g of the title compound.

reactant | 4-(2-hydroxy-3-{4-[5-(4-trifluoromethylbenzoylamino)pyridin-2-yloxy]phenyl}propionyl)piperazine-1-carboxylic acid t-butyl ester | 0.94 mmol, 0.58 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(CC1=CC=C(C=C1)OC1=NC=C(C=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)O)=O | C31H33F3N4O6
reactant | Dess-Martin reagent | 1.89 mmol, 0.8 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-(2-oxo-3-{4-[5-(4-trifluoromethyl-benzoylamino)pyridin-2-yloxy]phenyl}propionyl)-piperazine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(CC1=CC=C(C=C1)OC1=NC=C(C=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)=O)=O | C31H31F3N4O6
